************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFSX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:50:09 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFSX2
* View Name:    schematic
************************************************************************

.SUBCKT SDFFSX2 CK D Q QN SE SI SN VDD VSS
*.PININFO CK:I D:I SE:I SI:I SN:I VDD:I VSS:I Q:O QN:O
Mmn51 net518 qbint net521 VSS g45n1svt m=1 l=45n w=145n
Mmn52 n35 CKb net518 VSS g45n1svt m=1 l=45n w=145n
Mmn50 net521 SN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn13 net506 SI VSS VSS g45n1svt m=1 l=45n w=145n
Mmn14 Db SE net506 VSS g45n1svt m=1 l=45n w=145n
Mmn12 Db SEb net494 VSS g45n1svt m=1 l=45n w=145n
Mmn11 net494 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn57 QN net492 VSS VSS g45n1svt m=1 l=45n w=520n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn31 mout n20 net442 VSS g45n1svt m=1 l=45n w=145n
Mmn35 net478 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn36 n20 CKbb net478 VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n35 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn56 net492 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 n35 CKbb mout VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 Db CKb n20 VSS g45n1svt m=1 l=45n w=145n
Mmn30 net442 SN VSS VSS g45n1svt m=1 l=45n w=145n
Mmp14 Db SEb net441 VDD g45p1svt m=1 l=45n w=215n
Mmp13 net441 SI VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 Db SE net433 VDD g45p1svt m=1 l=45n w=215n
Mmp11 net433 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp57 QN net492 VDD VDD g45p1svt m=1 l=45n w=780n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp36 n20 CKb net417 VDD g45p1svt m=1 l=45n w=215n
Mmp35 net417 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp52 n35 CKbb net405 VDD g45p1svt m=1 l=45n w=215n
Mmp51 net405 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp50 net405 SN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n35 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp56 net492 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n35 CKb mout VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout SN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp31 mout n20 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKbb Db VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

